US04090018
21 g of 5-methoxybenzotriazole-2-acetic acid, 20 g of 4-formyl-biphenyl and 5 ml of piperidine are melted at 165° to 175° C for 10 hours. 50 ml of dimethylformamide are then added and the product is allowed to crystallise. 20 g of 5-methoxy-2-[(p-phenyl)-styryl]-benzotriazole are obtained and after recrystallisation from methylglycol this melts at 176° C.

reactant | 5-methoxybenzotriazole-2-acetic acid | 21 g | COC1=CC=2C(=NN(N2)CC(=O)O)C=C1 | C9H9N3O3
reactant | 4-formyl-biphenyl | 20 g | C(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C13H10O
reactant | piperidine | 5 ml | N1CCCCC1 | C5H11N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-methoxy-2-[(p-phenyl)-styryl]-benzotriazole | 20 g | COC1=CC=2C(=NN(N2)C=CC2=CC=C(C=C2)C2=CC=CC=C2)C=C1 | C21H17N3O
